US04162270
A mixture of 343 g (3.69 moles) of phenol, 146 g (1.46 moles) of 98% sulfuric acid and 300 g of o-dichlorobenzene is heated with stirring. When the temperature of the reaction system reaches about 140° C., the mixture begins to boil, giving off an azeotropic mixture of water and o-dichlorobenzene, which is condensed and separated into two phases, i.e., water and o-dichlorobenzene. The o-dichlorobenzene is continuously returned to the reaction mixture. With continuous heating, when the amount of the aqueous phase reaches 55 ml, the temperature of reaction mixture is about 184° C. Subsequently o-dichlorobenzene containing small amounts of water and phenol is completely distilled off over a period of 3 hours by reducing a pressure of the reaction system to produce the dried reaction mixture in a solid state, while adjusting the temperature to 180° to 190° C. A solution of 62 g of sodium hydroxide in 3.5 l of water is added to the residue, 5 g of active carbon is added to the solution, the mixture is filtered and the filtrate is neutralized with sulfuric acid. The resulting crystals are filtered off, then washed with water and dried, giving 338 g of 4,4'-dihydroxydiphenylsulfone, melting at 248.5° C., in a yield of 92.6% based on the sulfuric acid starting material. When analyzed by gas chromatography, the isomer content is found to be 0.6% in the dried reaction mixture and 0.5% in the product.

reactant | phenol | 3.69 moles, 343 g | C1(=CC=CC=C1)O | C6H6O
reactant | sulfuric acid | 1.46 moles, 146 g | S(O)(O)(=O)=O | H2O4S
reactant | o-dichlorobenzene | 300 g | ClC1=C(C=CC=C1)Cl | C6H4Cl2
reactant | sodium hydroxide | 62 g | [OH-].[Na+]
solvent | water | 3.5 l | O | H2O
product | 4,4'-dihydroxydiphenylsulfone | 338 g, yield of 92.6% | C1=CC(=CC=C1O)S(=O)(=O)C2=CC=C(C=C2)O | C12H10O4S
